US07256177B2
2-Methyl-1-(6-allyl-3,4,5-tris-benzyloxy-tetrahydro-pyran-2-yl)-propylamine, 15c 160 mg and 100 mg degussa 50% w/w wet 10% palladium/carbon under N2 was suspended in THF (5 mL) and 1M aq. HCl (1 mL) the reaction mixture was stirred 24 h under 1 atm pressure H2. The reaction mixture was filtered through Celite evaporated to dryness to provide the product 2-(1-Amino-2-methyl-propyl)-6-propyl-tetrahydro-pyran-3,4,5-triol (60.8 mg 89%) as the HCl salt. TLC (CHCl3: MeOH: 32% aq. AcOH) Rf=0.35. MS (ESPOS): 248 [M+H]+.

reactant | 2-Methyl-1-(6-allyl-3,4,5-tris-benzyloxy-tetrahydro-pyran-2-yl)-propylamine | CC(C(C1OC(C(C(C1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)CC=C)N)C | C33H41NO4
reactant | HCl | 1M, 1 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | palladium/carbon | [Pd] | Pd
product | 2-(1-Amino-2-methyl-propyl)-6-propyl-tetrahydro-pyran-3,4,5-triol | 60.8 mg, 89% | NC(C(C)C)C1OC(C(C(C1O)O)O)CCC | C12H25NO4
